US07662402B2
1.2 g of 2-(2,2,3,4,4,4-hexafluorobutyl)malononitrile and 1.5 g of 2-chloro-1,4-dibromo-1,1,2-trifluorobutane were dissolved in 10 ml of dimethyl sulfoxide, 0.7 g of potassium carbonate was added, and the mixture was stirred at room temperature for 5 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.14 g of 2-(4-bromo-3-chloro-3,4,4-trifluorobutyl)-2-(2,2,3,4,4,4-hexafluorobutyl)malononitrile (hereinafter, referred to as the present compound (46)).

reactant | 2-(2,2,3,4,4,4-hexafluorobutyl)malononitrile | 1.2 g | FC(CC(C#N)C#N)(C(C(F)(F)F)F)F | C7H4F6N2
reactant | 2-chloro-1,4-dibromo-1,1,2-trifluorobutane | 1.5 g | ClC(C(F)(F)Br)(CCBr)F | C4H4Br2ClF3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(4-bromo-3-chloro-3,4,4-trifluorobutyl)-2-(2,2,3,4,4,4-hexafluorobutyl)malononitrile | 0.14 g | BrC(C(CCC(C#N)(C#N)CC(C(C(F)(F)F)F)(F)F)(F)Cl)(F)F | C11H7BrClF9N2
